Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History of Present Illness: ___ yo man with h/o "small heart 
attack ___ years ago", ESRD (on HD for ___ years, urinates 
3x/day), HTN, HLP, DM, presents with chest pain and SOB since 
late afternoon today. He was sitting on his bed when he suddenly 
developed ___ substernal chest heaviness, that may have 
radiated to the back. This was associated with SOB, but no N/V, 
sweats, dizziness, numbness or tingling. There was no 
association of his pain with food, position, breathing, or 
cough. He's never had this pain before. When he had the "mild 
heart attack" ___ years ago, he cannot recal if this pain was 
similar. He decided to present to the ED.
.
In the ED, initial vs were: 98 118/48 60 16 99%RA. Patient was 
given . Vitals on transfer were 98.3 55 136/58 14 100%2LNC. ASA 
325mg PO ONCE, morphine 4mg IV ONCE, 1gm tylenol PO ONCE
.
On the floor,
.
Review of sytems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied 
palpitations. Denied nausea, vomiting, diarrhea, constipation. 
No recent change in bowel or bladder habits. 
 
Past Medical History:
1) ESRD on HD for ___ years
2) "Mild heart attack" at ___ in ___
3) HTN
4) HLP
5) DM
6) ?Dementia 
 
Social History:
___
Family History:
Family History:
Patient's father died of an MI in mid ___. No other personal or 
family history of heart disease or blood clot.
 
Physical Exam:
Vitals: 96.5 150/68 66 18 100%2LNC
General: Alert, oriented x ___ (says he's in ___, can't recall 
city, says he's in hospital can't recall name, says ___ can't 
recall date) no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi except bibasilar rhales
CV: Regular rate and rhythm, normal S1 + S2, soft ___ SM at apex 
no rubs, gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
GU: no foley
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
 
Pertinent Results:
___ 02:25PM BLOOD WBC-8.0 RBC-3.74* Hgb-12.1* Hct-36.5* 
MCV-98 MCH-32.4* MCHC-33.2 RDW-16.5* Plt ___
___ 02:25PM BLOOD Neuts-57.8 ___ Monos-5.9 Eos-2.5 
Baso-0.7
___ 02:25PM BLOOD ___ PTT-22.1 ___
___ 02:25PM BLOOD Glucose-137* UreaN-45* Creat-6.4* Na-139 
K-3.1* Cl-91* HCO3-36* AnGap-15
___ 02:25PM BLOOD ALT-4 AST-11 LD(LDH)-110 CK(CPK)-33* 
AlkPhos-58 Amylase-74 TotBili-0.5
___ 02:25PM BLOOD proBNP-699*
___ 02:25PM BLOOD cTropnT-0.02*
___ 11:59PM BLOOD CK-MB-NotDone cTropnT-0.03*
___ 07:10AM BLOOD CK-MB-NotDone cTropnT-0.02*
___ 07:10AM BLOOD Calcium-9.4 Phos-4.9* Mg-2.1
___ 02:25PM BLOOD Albumin-4.0

REPORTS: 

___   Radiology CARDIAC PERFUSION PERSA  Left 
ventricular cavity size is normal. The end-diastolic volume is 
129 ml.
Rest and stress perfusion images reveal a small region of 
decreased tracer
uptake along the inferior wall of the left ventricle, although 
this may be due to artifact generated by adjacent soft tissue. 
There is no change in tracer uptake on stress versus rest 
images.
Gated images reveal normal wall motion.
The calculated left ventricular ejection fraction is 68 %.
No prior studies are available for comparison.
IMPRESSION: 1. No reversible myocardial perfusion defect. 2. 
Focal decreased tracer uptake in the left ventricular inferior 
wall is likely due to artifact from adjacent soft tissue; 
alternatively this could represent a mild fixed perfusion 
defect.
     
___   Cardiology STRESS ___: ___ yo 
man with h/o HTN, HL and type II DM requiring
insulin; s/p "small heart attack" ___ years ago was referred to 
evaluate
an atypical chest discomfort and shortness of breath. The 
patient was
administered 0.142 mg/kg/min of Persantine over 4 minutes. No 
chest,
back, neck or arm discomforts were reported by the patient 
during the
procedure. No significant ST segment changes were noted. The 
rhythm was
sinus with no ectopy noted. An appropriate heart rate and blood 
pressure
response to the Persantine infusion was noted. Post-infusion, 
the
patient was administered 125 mg Aminophylline IV.
IMPRESSION: No anginal symptoms or ischemic ST segment changes 
to
Persantine. Appropriate heart rate and blood pressure response 
to
Persantine infusion. Nuclear report sent separately.  
 
___   Radiology CHEST (PA & LAT)   
FINDINGS: Lung volumes are mildly diminished. Hazy subsegmental 
atelectasis
is seen in both lung bases. No consolidation or edema is 
evident. The
mediastinum is unremarkable. The cardiac silhouette is 
borderline enlarged
even accounting for patient and technical factors. No effusion 
or
pneumothorax is noted. The osseous structures are grossly 
unremarkable.
IMPRESSION: Low lung volumes with hazy bibasilar atelectasis. 
Otherwise, no
acute pulmonary process.

DISCHARGE LABS: 

___ 06:35AM BLOOD WBC-7.0 RBC-3.83* Hgb-12.5* Hct-37.1* 
MCV-97 MCH-32.6* MCHC-33.6 RDW-15.5 Plt ___
___ 06:35AM BLOOD Glucose-103* UreaN-53* Creat-6.7*# Na-141 
K-3.5 Cl-96 HCO3-31 AnGap-18
___ 06:35AM BLOOD Calcium-9.5 Phos-4.7* Mg-1.___ yo man with h/o "small heart attack ___ years ago", ESRD (on HD 
for ___ years, urinates 3x/day), HTN, HLP, DM, presents with 
chest pain and SOB since late afternoon today.
.
# Chest pain: Unclear etiology, ACS thought to be unlikely given 
atypically pain, no EKG changes, negative enzymes, and negative 
PMIBI results. LFTs including amylase/lipase were wnl. CXR 
negative for any acute process. PE unlikely given lack of risk 
factors, such as tachycardia, recent surgery/travel, hemoptysis, 
DVT sx, h/o cancer or DVT/PE. Mild volume overload secondary to 
ESRD was thought to be a possible cause, which was resolved 
after HD. Pt was initially treated with ACS protocol with ASA 
325mg PO daily, Plavix 75mg PO Daily, Atorvastatin 80mg PO 
daily. We continued Metoprolol tartrate 200mg PO HS, Continue 
Cozaar 50mg PO Daily. Once PMIBI was negative plavix was DC'd, 
ASA dropped back to 81 and pt's original simvastatin 40 was 
restarted.  
.
# ESRD: On HD for ___ years. Continued HD ___, with 
renal following. 
.
# HTN: Continued BB and ___ per above
.
# HLP: Atorvastatin per above
.
# DM: Continued home Lantus 28 units plus SSI.
.
# Dementia: Continued carbidopa and levadopa.
 
Medications on Admission:
1) Aspirin 81mg PO daily
2) Simvastatin 40mg PO daily
3) Losartan 50mg PO daily
4) Nexium 40mg PO Daily
5) Sevelamer carbonate 800mg PO TID
6) Nephrocaps 1 cap PO Daily
7) Ambien 10mg PO HS
8) Trazadone 100mg PO HS
9) Insulin glargine 28 units daily
10) Sliding scale insulin
11) Carbidopa-Levodopa (___) 2 tab PO TID
12) Metoprolol XL 200mg PO HS 
 
Discharge Medications:
1. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Nexium 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
3. Losartan 25 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
4. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

5. Trazodone 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
6. Sevelamer Carbonate 800 mg Tablet Sig: One (1) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
7. Carbidopa-Levodopa ___ mg Tablet Sig: Two (2) Tablet PO 
TID (3 times a day).  
8. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
9. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: Two (2) Tablet Sustained Release 24 hr PO HS (at bedtime).  

10. Insulin Glargine 100 unit/mL Solution Sig: ___ (28) 
Units Subcutaneous once a day: Plus sliding scale. .  
11. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  


 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1) Atypical chest pain
2) Musculoskeletal chest pain 
3) End stage renal disease

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure to take care of you here at ___. You were 
admitted for chest pain. Fortunately, an stress test was 
negative for any evidence of heart disease. Also, our testing 
revealed that you did not have a heart attack. You will be 
discharged home with physical therapy. 

We have not made the any changes to your medications.

 
Followup Instructions:
___